US07312342B2
5 g (0.027 mol) of 3-cyanoindole-7-carboxylic acid are dissolved in 40 ml of hot N-methylpyrrolidone, the solution is cooled to 40°, and 7.6 g (0.027 mol) of N,N-carbonyldiimidazole are added. The mixture is stirred at room temperature for a further one hour. A suspension of 1-(2-(4-fluorophenyl)ethyl)piperazine dihydrochloride in 40 ml of N-methylpyrrolidone is subsequently poured in. After 5 minutes, a clear solution is formed and just afterwards white crystals deposit. The mixture is stirred overnight at room temperature. The crystals are filtered off with suction, washed and dried, giving 5 g of 7-{4-[2-(4-fluorophenyl)ethyl]piperazin-1-carbonyl}-1H-indole-3-carbonitrile as the free base having a melting point (m.p.) of 192.0-193.5°.

reactant | 3-cyanoindole-7-carboxylic acid | 0.027 mol, 5 g | C(#N)C1=CNC2=C(C=CC=C12)C(=O)O | C10H6N2O2
reactant | N,N-carbonyldiimidazole | 0.027 mol, 7.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-(2-(4-fluorophenyl)ethyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CCN1CCNCC1
solvent | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | 7-{4-[2-(4-fluorophenyl)ethyl]piperazin-1-carbonyl}-1H-indole-3-carbonitrile | 5 g | FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C=1C=CC=C2C(=CNC12)C#N | C22H21FN4O
